US06248766B1
[(2-Bis(3-fluorophenyl)methylthio-4,5-dihydronaphto[1,2-d]thiazol-6-yl)oxy]acetic Acid
Using ethyl[(2-mercapto-4,5-dihydronaphto[1,2-d]thiazol-6-yl)oxy]acetate and bis(3-fluorophenyl)methylbromide, the procedure of Example 63 was otherwise repeated to synthesize the title compound. Yield 47%.

reactant | ethyl[(2-mercapto-4,5-dihydronaphto[1,2-d]thiazol-6-yl)oxy]acetate | C(C)OC(COC1=C2CCC3=C(N=C(S3)S)C2=CC=C1)=O | C15H15NO3S2
reactant | bis(3-fluorophenyl)methylbromide | FC=1C=C(C=CC1)C(C1=CC(=CC=C1)F)Br | C13H9BrF2
product | [(2-Bis(3-fluorophenyl)methylthio-4,5-dihydronaphto[1,2-d]thiazol-6-yl)oxy]acetic Acid | Yield 47% | FC=1C=C(C=CC1)C(SC=1SC2=C(N1)C1=CC=CC(=C1CC2)OCC(=O)O)C2=CC(=CC=C2)F | C26H19F2NO3S2
